### PR TITLE
chore: bump mathlib

### PR DESCRIPTION
**Pull request by pitmonticone**
I have left one error to fix at `estimate_10_1_3`.

### CODE REVIEW

File: Carleson/ForestOperator/L2Estimate.lean [hunk 1]
```diff
@@ -721,7 +721,10 @@ lemma boundary_operator_bound (hf : BoundedCompactSupport f) :
     simp_rw [enorm_eq_nnnorm, coe_algebraMap, nnnorm_real, ← enorm_eq_nnnorm,
       ← ENNReal.rpow_natCast, Nat.cast_ofNat]
     refine (enorm_toReal ?_).symm
-    replace hv' := ENNReal.pow_lt_top hv' 2
+    replace hv' := by
```
Comment (grunweg) [inline Carleson/ForestOperator/L2Estimate.lean:724]: How difficult is it to restore a term-mode proof? If that's easy, do you want to do it again?

**Review by grunweg — COMMENTED** [review]
Thanks, looks good so far. I have one small comment and one follow-up question: can you remove e.g. `hasFiniteIntegral_iff_enorm'` (and perhaps its neighbours in ToMathlib/Misc.lean), given that https://github.com/leanprover-community/mathlib4/pull/24343 landed?

**Comment by grunweg** [comment]
I have fixed the remaining error locally; will push in a moment.

**Comment by grunweg** [comment]
I think I fixed everything on this PR: if you think everything is already, would you like to merge this?

**Comment by pitmonticone** [comment]
Thanks a lot!
